US08497368B2
1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbonitrile (64.1)
To a degassed solution of 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (1.6 g, 4.69 mmol) in DMF (8 mL), was added Pd(PPh3)4 (0.434 g, 0.375 mmol) and dicyanozinc (0.441 g, 3.75 mmol). The reaction mixture was heated to 127° C. for 4 h. NH4Cl(aq) was added to quench the reaction, followed by EtOAc. The reaction mixture was filtered through celite, washed with saturated NaHCO3 and NH4Cl. The organic layer was separated, dried over Na2SO4, filtered and concentrated to give a crude product, which was purified with Analogix gel silica (Hexanes:EtOAc) to afford the title compound as a light yellow solid. LCMS (method B): [MH]+=288, tR=1.81 min.

reactant | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 4.69 mmol, 1.6 g | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | dicyanozinc | 3.75 mmol, 0.441 g | C(#N)[Zn]C#N
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.375 mmol, 0.434 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbonitrile | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C#N | C15H9N7
